US04103086
Bromopyruvic acid is treated with diphenyldiazomethane by standard methods to give benzhydryl bromopyruvate.

reactant | Bromopyruvic acid | BrCC(C(=O)O)=O | C3H3BrO3
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
product | benzhydryl bromopyruvate | BrCC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C16H13BrO3
